US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-trifluoromethyl-phenyl chloroformate were reacted, followed by treatment with 2-ethylamino-ethanol to yield trans-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-methyl-carbamic acid 4-trifluoromethyl-phenyl ester, MS: 459 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | trans-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-methyl-carbamic acid 4-trifluoromethyl-phenyl ester | FC(C1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(CCO)CC)=O)(F)F | C24H37F3N2O3
